US08084448B2
F. {3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylpropyl}-carbamic Acid Tert-butyl Ester
A solution of {(E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylallyl}-carbamic acid tert-butyl ester (105 mg, 0.2 mmol) in ethanol (5 mL) is hydrogenated over 10% Pd/C at 1 atm for 18 h. The catalyst is removed by filtration through Celite and the solvent is removed under reduced pressure to give the title compound. It is converted to a potassium salt by addition of 1 equivalent of KHCO3. 1H NMR (400 MHz, MeOD) δ ppm 1.17 (s, 6 H) 1.34 (s, 9 H) 1.77-1.87 (m, 2 H) 2.35-2.44 (m, 2 H) 4.20 (s, 2 H) 6.59 (dd, J=8.08, 1.77 Hz, 1 H) 6.65 (d, J=1.77 Hz, 1 H) 7.20 (d, J=8.08 Hz, 1 H) LCMS (method A) retention time=1.32 min, (M−H)−=142

reactant | {(E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylallyl}-carbamic acid tert-butyl ester | 0.2 mmol, 105 mg | C(C)(C)(C)OC(NC(\C=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)(C)C)=O | C25H31N3O6S
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | {3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylpropyl}-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC(CCC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)(C)C)=O | C18H27N3O6S
